US06051712
In an analogous manner to that described in Example 136 (a), from tert-butyl (3RS,4RS)-4-[4-(2-chloro-benzoyloxymethyl)-[1,2,3]triazol-1-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate by cleavage of the BOC group with hydrogen chloride in methanol there was obtained 1-[(3RS,4RS)-3-(naphthalen-2-yl-methoxy)-piperidin-4-yl]-1H-[1,2,3]triazol-4-ylmethyl 2-chloro-benzoate hydrochloride (1:1) in the form of colourless crystals; MS: 477 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(2-chloro-benzoyloxymethyl)-[1,2,3]triazol-1-yl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | ClC1=C(C(=O)OCC=2N=NN(C2)C2C(CN(CC2)C(=O)OC(C)(C)C)OCC2=CC3=CC=CC=C3C=C2)C=CC=C1 | C31H33ClN4O5
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | CO | CH4O
product | 1-[(3RS,4RS)-3-(naphthalen-2-yl-methoxy)-piperidin-4-yl]-1H-[1,2,3]triazol-4-ylmethyl 2-chloro-benzoate hydrochloride | Cl.ClC1=C(C(=O)OCC=2N=NN(C2)C2C(CNCC2)OCC2=CC3=CC=CC=C3C=C2)C=CC=C1 | InChI=1S/C26H25ClN4O3.ClH/c27-23-8-4-3-7-22(23)26(32)34-17-21-15-31(30-29-21)24-11-12-28-14-25(24)33-16-18-9-10-19-5-1-2-6-20(19)13-18;/h1-10,13,15,24-25,28H,11-12,14,16-17H2;1H
